US04822811
N-hydroxy-N-(1-dibenzofur-3-ylethyl) acetamide
3-Acetyldibenzofuran oxime. The crude ketone prepared as described in step a, was dissolved in pyridine (50 mL) and ethanol (50 mL) and hydroxylamine hydrochloride was added. The mixture was stirred overnight at ambient temperature. The reaction was concentrated and the residue was partitioned between ethyl acetate (300 mL) and 3N HCl. The ethyl acetate layer was dried (Na2SO4), filtered and concentrated in vacuo to give a crystalline residue. The crystals were rinsed with hexane, filtered and dried to give 12.3 g of the desired product, mp 132°-135°.

reactant | 3-Acetyldibenzofuran oxime | C(C)(C=1C=CC2=C(OC3=C2C=CC=C3)C1)=NO | C14H11NO2
reactant | ethanol | 50 mL | C(C)O | C2H6O
reactant | hydroxylamine hydrochloride | Cl.NO
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | N-hydroxy-N-(1-dibenzofur-3-ylethyl) acetamide | 12.3 g | ON(C(C)=O)C(C)C=1C=CC2=C(OC3=C2C=CC=C3)C1 | C16H15NO3
